US09359344B2
1-(methoxymethyl)-4-amino-1H-1,2,3-triazole (3.56 g, 27.784 mmol), 2,5-dibromopyridine (19.608 g, 82.773 mmol) and potassium tert-butylate (9.345 g, 83.252 mmol) were added into DMF (100 mL), heated to 70° C., and stirred for 72 hours. The reaction solution was poured into water, and extracted with ethyl acetate. The combined organic phase was washed with a saturated solution of sodium chloride, dried over anhydrous sodium sulfate, concentrated, and separated on a silica gel column chromatograph (ethyl acetate:petroleum ether=1:30) to obtain 0.318 g of 5-bromo-N-(1-(methoxymethyl)-1H-1,2,3-triazol-4-yl)pyridine-2-amine as a yellow solid, at a yield of 4%.

reactant | 1-(methoxymethyl)-4-amino-1H-1,2,3-triazole | 27.784 mmol, 3.56 g | COCN1N=NC(=C1)N | C4H8N4O
reactant | 2,5-dibromopyridine | 82.773 mmol, 19.608 g | BrC1=NC=C(C=C1)Br | C5H3Br2N
reactant | potassium tert-butylate | 83.252 mmol, 9.345 g | CC(C)(C)[O-].[K+]
reactant | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 5-bromo-N-(1-(methoxymethyl)-1H-1,2,3-triazol-4-yl)pyridine-2-amine | 0.318 g, yield of 4% | BrC=1C=CC(=NC1)NC=1N=NN(C1)COC | C9H10BrN5O
